US06172117B2
Preparation of Dimethyltetradecyl(thiocyanatomethyl)ammonium Chloride
The reaction was carried out similar to the other examples, using tetrahydrofuran, tetradecyldimethylamine and chloromethylthiocyanate. The product was a brown solid with 80% purity.

reactant | tetradecyldimethylamine | C(CCCCCCCCCCCCC)N(C)C | C16H35N
reactant | chloromethylthiocyanate | ClCSC#N | C2H2ClNS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Dimethyltetradecyl(thiocyanatomethyl)ammonium Chloride | [Cl-].C[N+](CSC#N)(CCCCCCCCCCCCCC)C | InChI=1S/C18H37N2S.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-20(2,3)18-21-17-19;/h4-16,18H2,1-3H3;1H/q+1;/p-1
